US07872009B2
Step 1: Methyl 1-cyclohexyl-6-oxo-1,6-dihydropyridine-3-carboxylate
To a solution of 6-oxo-6H-pyran-3-carboxylate (1.14 g, 7.4 mmol, Aldrich) and 20 mL of MeOH was added cyclohexylamine (2.50 mL, 21.9 mmol, Aldrich). The solution was stirred at reflux for 16 hours, then concentrated in vacuo. The crude material was chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with 5% to 20% EtOAc:hexane to give 460 mg (26%) of the title compound as a dark yellow oil. MS m/z: 236.4(M+1).

reactant | 6-oxo-6H-pyran-3-carboxylate | 7.4 mmol, 1.14 g | O=C1C=CC(=CO1)C(=O)[O-]
reactant | cyclohexylamine | 21.9 mmol, 2.50 mL | C1(CCCCC1)N | C6H13N
reactant | MeOH | 20 mL | CO | CH4O
product | Methyl 1-cyclohexyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 460 mg, 26% | C1(CCCCC1)N1C=C(C=CC1=O)C(=O)OC | C13H17NO3
